US08791267B2
3-[1-(3′-Chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-1H-imidazol-4-yl]-pyridine (P-479).
A flask was charged with 3-(1H-Imidazol-4-yl)-pyridine (165 mg, 0.75 mmol) and THF (5 mL). Then NaH (60% dispersion in mineral oil, 60 mg, 1.5 mmol) was added slowly (gas evolution). After 2 min. of stirring at room temperature 3-Bromomethyl-3′-chloro-2-fluoro-6-methoxy-biphenyl (165 mg, 0.5 mmol) was added. The reaction mixture was stirred at rt. After overnight stirring the reaction mixture was quenched with water (20 mL). The mixture was extracted with EtOAc (3×10 mL). The combined organic layers were washed with brine (50 mL), dried over Na2SO4 and concentrated in-vacuo. The crude was purified by silica gel column chromatography, eluted with dichloromethane/MeOH (200:5) to produce 77.1 mg (39% yield) of the product (P-479) as a pale yellow solid. 1H NMR (400 MHz, DMSO-d) δ 3.75 (s, 3H), 5.26 (s, 2H), 7.02 (d, J=, 8.59 Hz, 1H), 7.28-7.50 (m, 6H), 7.78-7.88 (m, 2H), 8.04-8.11 (m, 1H), 8.38 (dd, J=4.7, 1.2 Hz, 1H), 8.96 (d, J=1.5 Hz, 1H) ppm.

reactant | 3-(1H-Imidazol-4-yl)-pyridine | 0.75 mmol, 165 mg | N1C=NC(=C1)C=1C=NC=CC1 | C8H7N3
reactant | NaH | 1.5 mmol, 60 mg | [H-].[Na+]
reactant | 3-Bromomethyl-3′-chloro-2-fluoro-6-methoxy-biphenyl | 0.5 mmol, 165 mg | BrCC=1C(=C(C(=CC1)OC)C1=CC(=CC=C1)Cl)F | C14H11BrClFO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-[1-(3′-Chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-1H-imidazol-4-yl]-pyridine | 77.1 mg, 39% yield | ClC=1C=C(C=CC1)C1=C(C(=CC=C1OC)CN1C=NC(=C1)C=1C=NC=CC1)F | C22H17ClFN3O
